US07199147B2
Under a nitrogen atmosphere, a solution of monomethyl phthalate (1.31 g, 7.31 mmol) and N,N-diisopropylamine (1.72 ml, 7.31 mmol) in tetrahydrofuran (10 ml) was added dropwise to a solution of benzotriazol-1-yloxy-trispyrrolidinophosphonium hexafluorophosphate (3.77 g, 7.31 mmol) in tetrahydrofuran (10 ml) over a period of 15 minutes at room temperature. After 40 minutes, the solution thus prepared was slowly dropped into a solution of cis-2-aminocyclohexanol hydrochloride (1.0 g, 6.65 mmol) and triethylamine (1.01 ml, 7.31 mmol) in tetrahydrofuran (10 ml). After 3 hours, p-toluenesulfonic acid (35 mg) was added thereto, and the resulting mixture was refluxed. After 5 hours, water was added thereto and the resulting mixture was poured into a saturated aqueous sodium hydroxide solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) and purified again by a silica gel column chromatography (eluent: chloroform/ethyl acetate) to obtain cis-2-(2-hydroxycyclohexyl)-1H-isoindole-1,3(2H)-dione (1.5746 g, 97%).

reactant | monomethyl phthalate | 7.31 mmol, 1.31 g | C(C=1C(C(=O)[O-])=CC=CC1)(=O)OC
reactant | N,N-diisopropylamine | 7.31 mmol, 1.72 ml | C(C)(C)NC(C)C | C6H15N
reactant | benzotriazol-1-yloxy-trispyrrolidinophosphonium hexafluorophosphate | 7.31 mmol, 3.77 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | cis-2-aminocyclohexanol hydrochloride | 6.65 mmol, 1.0 g | Cl.N[C@@H]1[C@@H](CCCC1)O
reactant | triethylamine | 7.31 mmol, 1.01 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | p-toluenesulfonic acid | 35 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | cis-2-(2-hydroxycyclohexyl)-1H-isoindole-1,3(2H)-dione | 1.5746 g, 97% | O[C@@H]1[C@@H](CCCC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
